US05141955
2-Benzylseleno-3-methoxybenzanilide
To a solution of 1.37 g (0.0041 mol) 2-benzylseleno-3-methoxybenzoyl chloride (prepared from 2-benzylseleno-3-methoxybenzoic acid and α,α-dichloromethyl ether in dichloromethane at room temperature) in 10 ml pyridine at 0° C. is added with stirring a solution of 0.38 g (0.0041 mol-0.37 ml) aniline. After stirring at room temperature for 18 hours the contents of the flask are poured onto 150 g ice and 50 ml 25% HCl and extracted. The organic phase is washed with 50 ml 10% NaHCO3 and twice with 100 ml portions of dichloromethane and 200 ml water, dried over sodium sulfate and the solvent removed in vacuum.

reactant | 2-benzylseleno-3-methoxybenzoyl chloride | 0.0041 mol, 1.37 g | C(C1=CC=CC=C1)[Se]C1=C(C(=O)Cl)C=CC=C1OC | C15H13ClO2Se
reactant | aniline | 0.38 g | NC1=CC=CC=C1 | C6H7N
reactant | HCl | 50 ml | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 2-Benzylseleno-3-methoxybenzanilide | C(C1=CC=CC=C1)[Se]C1=C(C(=O)NC2=CC=CC=C2)C=CC=C1OC | C21H19NO2Se
